US08084449B2
A mixture of 5-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-3-pyridinecarboxylic acid (50 mg, 0.110 mmol), 1,1-dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperidinecarboxylate (42.0 mg, 0.110 mmol), HBTU (o-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate) (50.3 mg, 0.133 mmol) and Et3N (0.046 ml, 0.331 mmol) in DCM was stirred at room temperature over the weekend. The reaction was quenched with saturated NaHCO3, and extracted with DCM twice. The combined organic layers were washed with brine and then concentrated under vacuum to give a crude residue. It was then purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were dried using a GeneVac and then combined to give 1,1-dimethylethyl 4-[(3′-{[({5-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-3-pyridinyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-1-piperidinecarboxylate. It was then dissolved in 2 mL of 25% TFA in DCM and stirred at room temperature for 3 h. The crude product was purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined and converted to the free base with 1 N NaOH, and the basified solution was extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated under vacuum to N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-(4-piperidinylmethyl)-3-biphenylyl]methyl}-3,5-pyridinedicarboxamide as a solid (3.5 mg, 4.4%). LC-MS m/z 715 (M+H)+, 0.77 min (ret time).

reactant | 5-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-3-pyridinecarboxylic acid | 0.110 mmol, 50 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C=NC2)C(=O)O)CC | C23H28N6O4
reactant | 1,1-dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperidinecarboxylate | 0.110 mmol, 42.0 mg | NCC=1C=C(C=CC1)C1=CC(=CC=C1)CC1CCN(CC1)C(=O)OC(C)(C)C | C24H32N2O2
reactant | HBTU | 0.133 mmol, 50.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.331 mmol, 0.046 ml | CCN(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl 4-[(3′-{[({5-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-3-pyridinyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-1-piperidinecarboxylate | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C=NC2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CC2CCN(CC2)C(=O)OC(C)(C)C)CC | C47H58N8O5
